US07183278B1
3-Benzyloxy-4,5-dimethoxypicolinic acid
Methyl 3-benzyloxy-4,5-dimethoxypicolinate (20 mg) was dissolved in 1 ml of methanol. A 1 N aqueous sodium hydroxide solution (0.33 ml) was added to the solution, and a reaction was allowed to proceed at room temperature for 3 hr. The reaction solution was neutralized with 1 N hydrochloric acid, and was then concentrated under the reduced pressure to give the title compound.

reactant | Methyl 3-benzyloxy-4,5-dimethoxypicolinate | 20 mg | C(C1=CC=CC=C1)OC=1C(=NC=C(C1OC)OC)C(=O)OC | C16H17NO5
reactant | sodium hydroxide | 1 N, 0.33 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
product | 3-Benzyloxy-4,5-dimethoxypicolinic acid | C(C1=CC=CC=C1)OC=1C(=NC=C(C1OC)OC)C(=O)O | C15H15NO5
